US07371772B2
A mixture of 1-propyl-2-piperidone (7.5 g) and 4N sodium hydroxide (26.6 ml) was refluxed for 4 hours. The mixture was cooled to 0° C. and conc. hydrochloric acid (8.85 ml) was added thereto. To the mixture were added sodium carbonate (11.3 g), 5-bromo-2-fluorobenzaldehyde (5.4 g) and DMSO (70 ml), and the resulting mixture was heated at 135° C. for 6 hours. The mixture was allowed to cool. Water was added and the mixture was extracted with THF-ethyl acetate. The organic layer was washed with water and saturated saline, and dried over magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography to obtain brown oil of 5-(4-bromo-2-formyl-N-propylanilino)pentanoic acid (8.8 g)

reactant | 1-propyl-2-piperidone | 7.5 g | C(CC)N1C(CCCC1)=O | C8H15NO
reactant | sodium hydroxide | 4N, 26.6 ml | [OH-].[Na+]
reactant | hydrochloric acid | 8.85 ml | Cl | ClH
reactant | sodium carbonate | 11.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-bromo-2-fluorobenzaldehyde | 5.4 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
solvent | Water | O | H2O
solvent | DMSO | 70 ml | CS(=O)C | C2H6OS
product | 5-(4-bromo-2-formyl-N-propylanilino)pentanoic acid | 8.8 g | BrC1=CC(=C(N(CCC)CCCCC(=O)O)C=C1)C=O | C15H20BrNO3
